US07820658B2
2-Amino-4-(1H-indol-3-yl)-thieno[2,3-d]pyrimidine-6-carboxylic acid ethyl ester
The crude 2-amino-4-(1H-indol-3-yl)-thieno[2,3-d]pyrimidine-6-carboxylic acid was dissolved in ethanol (2 ml) and conc. sulphuric acid was added (5 drops). The solution was refluxed overnight before water was added and the volatiles were removed in vacuo. The aqueous solution was partitioned with 1M sodium hydrogen carbonate solution and ethyl acetate. The organics were combined, dried over sodium sulphate and evaporated to dryness. The pure compounds was obtained after preparative TLC as an off white coloured powder.

reactant | 2-amino-4-(1H-indol-3-yl)-thieno[2,3-d]pyrimidine-6-carboxylic acid | NC=1N=C(C2=C(N1)SC(=C2)C(=O)O)C2=CNC1=CC=CC=C21 | C15H10N4O2S
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
reactant | water | O | H2O
reactant | ethanol | 2 ml | C(C)O | C2H6O
product | 2-Amino-4-(1H-indol-3-yl)-thieno[2,3-d]pyrimidine-6-carboxylic acid ethyl ester | C(C)OC(=O)C1=CC2=C(N=C(N=C2C2=CNC3=CC=CC=C23)N)S1 | C17H14N4O2S
